### PR TITLE
refine: add IRQReserved to state relation

### PR DESCRIPTION
**Pull request by ryybrr**
Previously, `irq_state_relation` did not admit reserved IRQs. This was addressed in `ARM_HYP` but not standardised across other architectures, and subsequently overwritten during arch-split efforts. This PR addresses this issue.

We also tag the `ARM` and `RISCV64` variants of `hint_invs` with `FIXME arch-split`. Here, strengthening the precondition is required for an arch-split, but will impact the InfoFlow refinement proofs.

### CODE REVIEW

File: proof/refine/AARCH64/Syscall_R.thy [hunk 1]
```diff
@@ -1748,16 +1748,20 @@ lemma contract_all_imp_strg:
...
          | corres_cases_both)+
-     apply (wpsimp wp: hoare_drop_imp)
-    apply clarsimp
-    apply (strengthen contract_all_imp_strg[where P'=True, simplified])
-    apply (wpsimp wp: doMachineOp_getActiveIRQ_IRQ_active' hoare_vcg_all_lift)
-   apply clarsimp
+     apply (wpsimp wp: hoare_drop_imps)
+    apply (rule_tac Q'="\<lambda>rv s. (\<forall>irq. rv = Some irq \<longrightarrow> irq \<in> non_kernel_IRQs \<longrightarrow> sch_act_not (ksCurThread s) s)
+                             \<and> (\<forall>irq. rv = Some irq \<longrightarrow> intStateIRQTable (ksInterruptState s) irq \<noteq> IRQInactive)
+                             \<and> invs' s" in hoare_strengthen_post)
```
Comment (corlewis) [inline proof/refine/AARCH64/Syscall_R.thy]: Minor, but the preferred style is to have the `in` on a separate line.
```suggestion
    apply (rule_tac Q'="\<lambda>rv s. (\<forall>irq. rv = Some irq \<longrightarrow> irq \<in> non_kernel_IRQs \<longrightarrow> sch_act_not (ksCurThread s) s)
                             \<and> (\<forall>irq. rv = Some irq \<longrightarrow> intStateIRQTable (ksInterruptState s) irq \<noteq> IRQInactive)
                             \<and> invs' s"
                 in hoare_strengthen_post)
```

File: proof/refine/AARCH64/ArchMachine_R.thy [hunk 2]
```diff
@@ -69,5 +69,14 @@ lemma getActiveIRQ_le_maxIRQ:
   apply (simp add: irqs_masked'_def valid_irq_states'_def)
   done
 
+lemma doMachineOp_getActiveIRQ_non_kernel[wp]:
+  "\<lbrace>\<top>\<rbrace> doMachineOp (getActiveIRQ True)
+   \<lbrace>\<lambda>rv s. \<forall>irq. rv = Some irq \<longrightarrow> irq \<in> non_kernel_IRQs \<longrightarrow> P irq s\<rbrace>"
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchMachine_R.thy:74]: For ARM_HYP as well
```suggestion
  "\<lbrace>\<top>\<rbrace>
   doMachineOp (getActiveIRQ True)
   \<lbrace>\<lambda>rv s. \<forall>irq. rv = Some irq \<longrightarrow> irq \<in> non_kernel_IRQs \<longrightarrow> P irq s\<rbrace>"
```

**Review by corlewis — APPROVED** [review]
Thanks for spotting and fixing this, looks good to me!

File: proof/refine/AARCH64/Interrupt_R.thy [hunk 3]
```diff
@@ -971,52 +971,54 @@ lemma handle_reserved_irq_corres[corres]:
...
-      apply (rule corres_eq_trivial; simp)
-     apply wp+
-   apply (clarsimp simp: invs_distinct invs_psp_aligned schact_is_rct_def)
-  apply clarsimp
+     apply (rule corres_split)
+        apply simp
+        apply (rule corres_split[OF timerTick_corres corres_machine_op])
+          apply (rule corres_eq_trivial, wpsimp+)
+       apply (rule corres_machine_op)
+       apply (rule corres_eq_trivial; simp)
```
Comment (lsf37) [inline proof/refine/AARCH64/Interrupt_R.thy]: It's possible that you can replace all that with just `apply (corres corres: timerTick_corres corres_machine_op)`. Worth a shot if you have time.

**Review by lsf37 — APPROVED** [review]
Yup, all good from my side. Good catch and good that we are proving further properties about these specs.
